US04870188
A mixture of tri-n-butyltinhydride (2.0 equiv.) (Aldrich) and 4-pentynoic acid (1.0 equiv.) (Aldrich) is warmed to 60° C. for six hours. Kugelrohr distillation of the crude product gives tri-n-butylstannyl 5-(tri-n-butylstannyl)-4-pentenoate acid.

reactant | tri-n-butyltinhydride | 2.0 equiv. | C(CCC)[SnH](CCCC)CCCC
reactant | 4-pentynoic acid | 1.0 equiv. | C(CCC#C)(=O)O | C5H6O2
product | tri-n-butylstannyl 5-(tri-n-butylstannyl)-4-pentenoate | C(CCC)[Sn](C=CCCC(=O)O[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC | InChI=1S/C5H7O2.6C4H9.2Sn/c1-2-3-4-5(6)7;6*1-3-4-2;;/h1-2H,3-4H2,(H,6,7);6*1,3-4H2,2H3;;/q;;;;;;;;+1/p-1
